US07148229B2
A solution of crude N-[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[4-(pyridin-2-ylsulfamoyl)-phenyl]-acetamide (50 mg, 0.86 mmol) in methanol (5 mL) was treated with a 10% w/v aqueous sodium hydroxide solution (0.1 mL, 0.25 mmol). The resulting solution was heated to reflux for until all of the starting material had been consumed. At this time, the reaction mixture was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 5/95 methanol/methylene chloride) followed by trituration with cold methanol afforded 4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-pyridin-2-yl-benzenesulfonamide (14.7 mg, 26% from [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid) as a colorless solid; 1H NMR(DMSO-d6, 300 MHz) δH 13.50 (broad s, 1H), 7.90 (broad s, 1H), 7.74 (d, J=8.1 Hz, 2H), 7.63 (t, J=7.3 Hz, 1H), 7.37 (d, J=7.7 Hz, 2H), 7.30–6.95 (m, 5H), 6.77 (broad s, 1H), 5.02 (s, 2H), 4.06 (s, 2H), 3.87 (t, J=7.1 Hz, 2H), 1.54 (t, J=7.0 Hz, 2H), 1.17 (q, J=7.5 Hz, 2H), 0.77 (t, J=7.3 Hz, 3H); FAB-HRMS m/e calculated for C28H27FN6O4S (M+H)+ 563.1877, found 563.1860.

reactant | N-[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[4-(pyridin-2-ylsulfamoyl)-phenyl]-acetamide | 0.86 mmol, 50 mg | NC1=C(C(N(C(N1CCCC)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=CC=C(C=C1)S(NC1=NC=CC=C1)(=O)=O)=O | C28H29FN6O5S
reactant | sodium hydroxide | 0.25 mmol, 0.1 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-pyridin-2-yl-benzenesulfonamide | 14.7 mg, 26% | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C28H27FN6O4S
